US04788010
(C) α-[(1-Oxo-3,3-diphenylpropyl)amino]-3,4-dimethoxybenzenepropionic acid
α-[(1-Oxo-3,3-diphenylpropyl)amino]-3,4-dimethoxybenzenepropionic acid, methyl ester (6.0 g) in 1N sodium hydroxide, tetrahydrofuran, and methanol was allowed to stir at room temperature for several hours. The mixture was evaporated to 50% volume and poured into ethyl acetate and water. The layers were separated and the aqueous layer was brought to pH 2 using concentrated hydrochloric acid. The mixture was extracted with ethyl acetate (2×50 ml) and the combined extracts were washed with water, brine, dried over magnesium sulfate, filtered and evaporated at reduced pressure.

reactant | α-[(1-Oxo-3,3-diphenylpropyl)amino]-3,4-dimethoxybenzenepropionic acid, methyl ester | 6.0 g | O=C(CC(C1=CC=CC=C1)C1=CC=CC=C1)NC(C(=O)OC)CC1=CC(=C(C=C1)OC)OC | C27H29NO5
reactant | methanol | CO | CH4O
solvent | sodium hydroxide | 1N | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | α-[(1-Oxo-3,3-diphenylpropyl)amino]-3,4-dimethoxybenzenepropionic acid | O=C(CC(C1=CC=CC=C1)C1=CC=CC=C1)NC(C(=O)O)CC1=CC(=C(C=C1)OC)OC | C26H27NO5
